US09340546B2
A solution of 2,4-dimethyl-1-(3-nitro-4-pyridyl)piperazine (89 mg, 0.3767 mmol) in methanol (4 mL) and Pd on C (10%, wet, Degussa) (20 mg) was hydrogenated overnight at RT under an atmosphere of hydrogen (balloon). The catalyst was filtered off through a Celite cartridge, washed with methanol. The filtrate was concentrated under reduced pressure yielding 4-(2,4-dimethylpiperazin-1-yl)pyridin-3-amine (71 mg, 91%). MS (ES+) 207.2.

reactant | 2,4-dimethyl-1-(3-nitro-4-pyridyl)piperazine | 0.3767 mmol, 89 mg | CC1N(CCN(C1)C)C1=C(C=NC=C1)[N+](=O)[O-] | C11H16N4O2
solvent | methanol | 4 mL | CO | CH4O
solvent | Pd | [Pd] | Pd
product | 4-(2,4-dimethylpiperazin-1-yl)pyridin-3-amine | 71 mg, 91% | CC1N(CCN(C1)C)C1=C(C=NC=C1)N | C11H18N4
